US07977344B2
N2-Butyl-8-(methyloxy)-9-[3-(tetrahydro-3-furanyl)propyl]-9H-Purine-2,6-diamine
N2-Butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate (150 mg, 0.428 mmol) was heated in dry DMF (2.5 ml) at 60° C. for 1 hour with potassium carbonate (237 mg, 1.713 mmol). The reaction mixture was cooled to room temperature and 3-(3-bromopropyl)tetrahydrofuran (99 mg, 0.514 mmol) was added. The mixture was then heated at 50° C. overnight. The reaction mixture was quenched with water (50 ml) and extracted with ethyl acetate (3×25 ml). The combined organic layers were separated and then dried by passage through a hydrophobic frit and evaporated to dryness. The residue was dissolved in 1:1 MeOH:DMSO (2.8 ml) and purified by mass directed autopreparation. Product containing fractions were evaporated under a stream of nitrogen in a blowdown apparatus to give the title compound as a clear gum (84 mg).

reactant | N2-Butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate | 0.428 mmol, 150 mg | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(N=C2N1)OC)N
reactant | potassium carbonate | 1.713 mmol, 237 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(3-bromopropyl)tetrahydrofuran | 0.514 mmol, 99 mg | BrCCCC1COCC1 | C7H13BrO
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | N2-Butyl-8-(methyloxy)-9-[3-(tetrahydro-3-furanyl)propyl]-9H-Purine-2,6-diamine | 84 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCC1COCC1)OC)N | C17H28N6O2
